US04487929
(c) A solution of 1.27 g of tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxyate in 10 ml of dimethylformamide was added to a suspension of 0.4 g of sodium hydride in dimethyformamide. The mixture was stirred at room temperature until the evolution of gas had ceased. 1.86 g of S-bromoethyl thioacetate were added and the mixture was heated at 75° C. for 5 hours. Working-up in the same manner as described in paragraph (D) (a) earlier gave 0.15 g (7%) of tert.butyl 2,2- bis(acetylthiomethyl)-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in the form of a white solid having a melting point of 85°-86° C. (from diethyl ether/hexane).

reactant | tert.butyl hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxyate | 1.27 g | O=C1CC(N2N1CCCC2C(=O)OC(C)(C)C)=O | C12H18N2O4
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | S-bromoethyl thioacetate | 1.86 g | C(C)(=O)SCCBr | C4H7BrOS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert.butyl 2,2- bis(acetylthiomethyl)-hexahydro-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.15 g, 7% | C(C)(=O)SCC1(C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O)CSC(C)=O | C18H26N2O6S2
